US09169198B2
The above-described method (Example 1) was repeated to react 2-ethyl 2-amino-3-methylbenzoate (16.29 g, 90.0 mmol) with hydrogen bromide (15.93 g, 94.5 mmol, 48% in water) and hydrogen peroxide (11.25 g, 99.0 mmol, 30% in water) and, following working up similar to Example 1, ethyl 2-amino-5-bromo-3-methylbenzoate (20.7 g, 89.1% of theory, >99 area % LC) was obtained as a brown oil.

reactant | 2-ethyl 2-amino-3-methylbenzoate | 90.0 mmol, 16.29 g | NC1=C(C(=O)OCC)C=CC=C1C | C10H13NO2
reactant | hydrogen bromide | 94.5 mmol, 15.93 g | Br | BrH
reactant | hydrogen peroxide | 99.0 mmol, 11.25 g | OO | H2O2
product | ethyl 2-amino-5-bromo-3-methylbenzoate | 20.7 g, 89.1% | NC1=C(C(=O)OCC)C=C(C=C1C)Br | C10H12BrNO2
